Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[CH:1][c:2]1[cH:3][cH:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[cH:13]1.[NH3:14]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[cH:13]1)[NH2:14],[O:101]=[CH:1][c:2]1[cH:3][cH:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[cH:13]1.[NH3:14].[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[cH:13]1)[NH2:14],reductive_amination,"[(14, 1), ([1, 101], 301), (101, 14.1), ([14.1, 14], 14), (14, [14, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 14], 14)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH3:1].[CH3:3][N:4]([CH3:5])[CH2:6][c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1-[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][N+:4]([CH3:3])([CH3:5])[CH2:6][c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1-[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,[CH3:3][N:4]([CH3:5])[CH2:6][c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1-[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1.[I:101][CH3:1]>>[CH3:1][N+:4]([CH3:3])([CH3:5])[CH2:6][c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1-[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,SN2,"[(4, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[N-]=[N+]=[N:1][CH:2]1[CH2:3][CH:4]2[CH2:5][CH:6]([O:7][CH3:8])[CH2:9][CH:10]2[CH2:11]1>>[NH2:1][CH:2]1[CH2:3][CH:4]2[CH2:5][CH:6]([O:7][CH3:8])[CH2:9][CH:10]2[CH2:11]1,[N-:201]=[N+:101]=[N:1][CH:2]1[CH2:3][CH:4]2[CH2:5][CH:6]([O:7][CH3:8])[CH2:9][CH:10]2[CH2:11]1.c1ccccc1[P:301](c2ccccc2)c3ccccc3.[OH2:302]>>[NH2:1][CH:2]1[CH2:3][CH:4]2[CH2:5][CH:6]([O:7][CH3:8])[CH2:9][CH:10]2[CH2:11]1,Staudinger,"[(301, 1), ([1, 101], 101), (201, 301), ([1, 101], [101, 201]), ([201, 301], [301, 1]), (302, 301), ([301, 1], 1), (1, 302.1), ([302.1, 302], 302), (302, [302, 301]), ([301, 1], 1), (1, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([Br:7])[cH:8][c:9]1[Cl:10].[CH3:11][C:12]([CH3:13])([CH3:14])[O:15][C:16](=[O:17])[NH:18][NH2:19]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([Br:7])[cH:8][c:9]1[Cl:10])[NH:19][NH:18][C:16]([O:15][C:12]([CH3:11])([CH3:13])[CH3:14])=[O:17],[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([Br:7])[cH:8][c:9]1[Cl:10].[CH3:11][C:12]([CH3:13])([CH3:14])[O:15][C:16](=[O:17])[NH:18][NH2:19].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([Br:7])[cH:8][c:9]1[Cl:10])[NH:19][NH:18][C:16]([O:15][C:12]([CH3:11])([CH3:13])[CH3:14])=[O:17],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (19, 1), ([1, 2], 2), (303, 19.1), ([19.1, 19], 19), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][CH2:2][CH2:3][CH2:4][N:5]1[C:6](=[O:7])[c:8]2[cH:9][cH:10][cH:11][cH:12][c:13]2[C:14]1=[O:15].[cH:16]1[cH:17][cH:18][c:19]2[c:20]([cH:21]1)[CH2:22][c:23]1[cH:24][cH:25][cH:26][cH:27][c:28]1[N:29]1[CH2:30][CH2:31][NH:32][CH2:33][C@@H:34]21>>[CH2:1]([CH2:2][CH2:3][CH2:4][N:5]1[C:6](=[O:7])[c:8]2[cH:9][cH:10][cH:11][cH:12][c:13]2[C:14]1=[O:15])[N:32]1[CH2:31][CH2:30][N:29]2[c:28]3[c:23]([cH:24][cH:25][cH:26][cH:27]3)[CH2:22][c:20]3[c:19]([cH:18][cH:17][cH:16][cH:21]3)[C@@H:34]2[CH2:33]1,[cH:16]1[cH:17][cH:18][c:19]2[c:20]([cH:21]1)[CH2:22][c:23]1[cH:24][cH:25][cH:26][cH:27][c:28]1[N:29]1[CH2:30][CH2:31][NH:32][CH2:33][C@@H:34]21.[Br:101][CH2:1][CH2:2][CH2:3][CH2:4][N:5]1[C:6](=[O:7])[c:8]2[cH:9][cH:10][cH:11][cH:12][c:13]2[C:14]1=[O:15]>>[CH2:1]([CH2:2][CH2:3][CH2:4][N:5]1[C:6](=[O:7])[c:8]2[cH:9][cH:10][cH:11][cH:12][c:13]2[C:14]1=[O:15])[N:32]1[CH2:31][CH2:30][N:29]2[c:28]3[c:23]([cH:24][cH:25][cH:26][cH:27]3)[CH2:22][c:20]3[c:19]([cH:18][cH:17][cH:16][cH:21]3)[C@@H:34]2[CH2:33]1,SN2,"[(32, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[O:1]=[CH:2][c:3]1[cH:4][cH:5][c:6]([CH:7]=[CH:8][CH:9]2[CH2:10][CH2:11]2)[s:12]1>>[OH:1][CH2:2][c:3]1[cH:4][cH:5][c:6]([CH:7]=[CH:8][CH:9]2[CH2:10][CH2:11]2)[s:12]1,[O:1]=[CH:2][c:3]1[cH:4][cH:5][c:6]([CH:7]=[CH:8][CH:9]2[CH2:10][CH2:11]2)[s:12]1.[BH4-:301].[CH3][OH1:302]>>[OH:1][CH2:2][c:3]1[cH:4][cH:5][c:6]([CH:7]=[CH:8][CH:9]2[CH2:10][CH2:11]2)[s:12]1,carbonyl_reduction,"[([301, 301.1], 2), ([2, 1], 1), (1, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
